2153-10-10 06:51:00 Physician Resident Progress Note
Chief Complaint: "My back hurts."
   24 Hour Events:
 MULTI LUMEN - START [**2153-10-9**] 06:34 PM
   Admitted to ICU from ED due to [**Year (4 digits) **], infiltrate on CXR, and
   hypotension. No acute events overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsLipitor (Oral)
   (Atorvastatin Calcium)
   elevation of li
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache, No lightheadness/dizziness
   Flowsheet Data as of  [**2153-10-10**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 72 (71 - 77) bpm
   BP: 95/52(63) {86/36(49) - 134/70(79)} mmHg
   RR: 17 (4 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,740 mL
                                                                    490 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    225 mL
   Urine:
                                                                    130 mL
                                                                    225 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, Bandage covered left shin wound is
   clean/dry/intact
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   10.8 g/dL
   149 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   32.3 %
   14.1 K/uL
         [image002.jpg]
                            [**2153-10-9**]  08:44 PM
                            [**2153-10-10**]  04:20 AM
   WBC
   12.8
   14.1
   Hct
   33.7
   32.3
   Plt
   179
   180
   Cr
   1.2
   1.3
   Glucose
   241
   149
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Microbiology: Blood Cultures x2 Pending
   Urine Culture Pending
   Assessment and Plan
   84 year old female with PMH of DM2, CHF, s/p PPM in [**2148**], chronic LE
   edema who presented to the ED after a visiting nurse found her to be
   febrile.
   .
   # Sepsis/Pneumonia: Patient has RUL infiltrate on CXR with [**Year (4 digits) **] and
   elevated white count. As she has no recent hospital admissions, this is
   likely a community acquired pneumonia. No history of aspiration. Pt is
   edentulous. Patient was transiently hypotensive in the ED, which
   resolved after 1.5L of IVF. Lactate=1.6 and the patient is currently
   normotensive, indicating that this is not severe sepsis. Overnight, BP
   continued to remain low. Temperature increased to 100.8 overnight and
   WBC has increased this morning to 14.1.
   - Blood cultures x2 pending
   - Continue on Levofloxacin as coverage for presumed CAP
   - Add Vancomycin for MRSA coverage
   - IVF Bolus for hypotension/low UOP
   - Send sputum for culture
   - If patient's fluid and O2 requirements increase, consider
   arterial/central line for hemodynamic monitoring as needed.
   - hold antihypertensives, including b-blocker, ace, Lasix
   .
   # Chronic Systolic CHF: Patient has history of systolic CHF with EF=30%
   on [**2152-9-22**]. BNP=[**Numeric Identifier 1756**] in ED. Her baseline is not known. CXR on
   admission is inconsistent with a CHF exacerbation. Patient received
   1.5L IVF in the ED. AM CXR is also inconsistent with CHF exacerbation.
   Patient not complaining of shortness of breath.
   - Will monitor daily CXR and physical exam to assess acute exacerbation
   - Goal is for even fluid balance given comorbid chronic kidney disease
   - Patient on home lasix
 will hold for now as BP remains low with low
   UOP
   - Will restart beta blocker, ACE inhibitor tomorrow depending on BP
   .
   # Chronic Renal Failure: Cr=1.3, BUN=27. Patient has baseline of approx
   1.3 over the past year. With BUN/Cr ratio >20, this may also be
   pre-renal. Patient has already received NS. There may possibly be
   underlying chronic kidney disease - either secondary to diabetes or
   poor cardiac output/chronic Lasix therapy. Will monitor daily labs to
   follow Cr, BUN, which remain stable this morning.
   - If drop in uop or rise in creat, w/u for ARF including urine lytes
   and bolus as needed.
   .
   # Left Leg Ulcer: Appears superficial without substantial erythema.
   Wound care with antibiotic ointment, moist barrier w/ sterile gauze.
   Consider wound c/s if worsening.
   .
   # Bacturia: Patient's UA in the ED showed many bacteria with few WBC
   and negative Leuk esterase. This likely represents asymptomatic
   bacturia.
   - Await urine culture
   - No intervention indicated at this time
   .
   # DM2: Hyperglycemic on admission. Hold glipizide. HgbA1c=7.5% on
   [**2153-9-6**]. Start regular insulin sliding scale.
   .
   # Hypothyroidism: Patient taking synthroid. Will continue.
   .
   # PPx: SC heparin, PPI
   .
   # Code: Full Code (confirmed with HCP)
   .
   # Dispo: ICU level care
   .
   # Contact: [**Name (NI) 1760**] [**Name (NI) 1764**] (Niece) [**Telephone/Fax (1) 1765**]
   ICU Care
   Nutrition:
   Comments: Cadiac/Diabetic Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-9**] 06:34 PM
   18 Gauge - [**2153-10-9**] 06:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2153-10-10 10:08:00 Physician Attending Progress Note
Chief Complaint: Hypotension, SIRS
   HPI:
   PNA, possible aspiration
   24 Hour Events:
 MULTI LUMEN - START [**2153-10-9**] 06:34 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   elevation of li
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Signs or concerns for abuse : NoPain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-10**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.3
   HR: 71 (70 - 77) bpm
   BP: 93/57(63) {86/36(49) - 134/95(102)} mmHg
   RR: 16 (4 - 30) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  1,740 mL
                                                                    990 mL
   PO:
                                                                    240 mL
                                                                    740 mL
   TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    315 mL
   Urine:
                                                                    130 mL
                                                                    315 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    675 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right upper and left base), (Breath Sounds: Crackles : left base and
   right apex, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   180 K/uL
   149 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   32.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2153-10-9**]  08:44 PM
                            [**2153-10-10**]  04:20 AM
   WBC
   12.8
   14.1
   Hct
   33.7
   32.3
   Plt
   179
   180
   Cr
   1.2
   1.3
   Glucose
   241
   149
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Imaging: Right upper lung zone and retrocardiac opacities, PVC.
   Assessment and Plan
   PNA, initially lobar, now appears multifocal. Hypotensive, did not
   require pressors overnight, currently hypotensive.
   Started on levofloxacin/flagyl in ED. Will change levo/vanco to cover
   CAP and MRSA.
   Bolus NS under way. Confirmed hypotension in both [**Last Name (LF) **], [**First Name3 (LF) 124**] place art
   line and start vasopressor.
   CHF
   CRF
   Left LE ulcer, chronic.
   Recently diagnosed hypothyroid.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-9**] 06:34 PM
   18 Gauge - [**2153-10-9**] 06:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-10-10 11:20:00 Physician Resident Progress Note
Chief Complaint: "My back hurts."
   24 Hour Events:
 MULTI LUMEN - START [**2153-10-9**] 06:34 PM
   Admitted to ICU from ED due to fever, infiltrate on CXR, and
   hypotension. No acute events overnight.
   During AM rounds, MAP=52. Patient subsequently received 250 cc bolus of
   NS.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsLipitor (Oral)
   (Atorvastatin Calcium)
   elevation of li
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache, No lightheadness/dizziness
   Flowsheet Data as of  [**2153-10-10**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 72 (71 - 77) bpm
   BP: 95/52(63) {86/36(49) - 134/70(79)} mmHg
   RR: 17 (4 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,740 mL
                                                                    490 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    225 mL
   Urine:
                                                                    130 mL
                                                                    225 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Rhonchorous: )
   Dullness at Right apex. Crackles at Right apex and Left base.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, Bandage covered left shin wound is
   clean/dry/intact
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   10.8 g/dL
   149 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   32.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2153-10-9**]  08:44 PM
                            [**2153-10-10**]  04:20 AM
   WBC
   12.8
   14.1
   Hct
   33.7
   32.3
   Plt
   179
   180
   Cr
   1.2
   1.3
   Glucose
   241
   149
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Microbiology: Blood Cultures x2 Pending
   Urine Culture Pending
   EKG: No change from prior studies.
   CXR: Right upper lobe infiltrate with no significant change since
   yesterday. Unable to identify left hemidiaphragm indicating possible
   left lower lobe infiltrate vs atelectasis
   Assessment and Plan
   84 year old female with PMH of DM2, CHF, s/p PPM in [**2148**], chronic LE
   edema who presented to the ED after a visiting nurse found her to be
   febrile.
   .
   # Sepsis/Pneumonia: Patient has RUL infiltrate on CXR with fever and
   elevated white count. As she has no recent hospital admissions, this is
   likely a community acquired pneumonia. No history of aspiration. Pt is
   edentulous. Patient was transiently hypotensive in the ED, which
   resolved after 1.5L of IVF. Lactate=1.6 and the patient is currently
   normotensive, indicating that this is not severe sepsis. Overnight, BP
   continued to remain low. Temperature increased to 100.8 overnight and
   WBC has increased this morning to 14.1. Blood pressure dropped this
   morning during AM rounds. Patient given 250cc fluid bolus as well as
   Levophed drip.
   - Blood cultures x2 pending
   - Continue on Levofloxacin as coverage for presumed CAP
   - Add Vancomycin for MRSA coverage
   - IVF Bolus for hypotension/low UOP. Continue Levophed. Wean when able.
   - Send sputum for culture
   - Attempted arterial line.
   - hold antihypertensives, including b-blocker, ace, Lasix
   .
   # Chronic Systolic CHF: Patient has history of systolic CHF with EF=30%
   on [**2152-9-22**]. BNP=[**Numeric Identifier 1756**] in ED. Her baseline is not known. CXR on
   admission is inconsistent with a CHF exacerbation. Patient received
   1.5L IVF in the ED. AM CXR is also inconsistent with CHF exacerbation.
   Patient not complaining of shortness of breath.
   - Will monitor daily CXR and physical exam to assess acute exacerbation
   - Goal is for even fluid balance given comorbid chronic kidney disease
   - Patient on home lasix
 will hold for now as BP remains low with low
   UOP
   - Continue to hold beta blocker, ace inhibitor, lasix
   .
   # Chronic Renal Failure: Cr=1.3, BUN=27. Patient has baseline of approx
   1.3 over the past year. With BUN/Cr ratio >20, this may also be
   pre-renal. Patient has already received NS. There may possibly be
   underlying chronic kidney disease - either secondary to diabetes or
   poor cardiac output/chronic Lasix therapy. Will monitor daily labs to
   follow Cr, BUN, which remain stable this morning.
   - If drop in uop or rise in creat, w/u for ARF including urine lytes
   and bolus as needed.
   .
   # Left Leg Ulcer: Chronic issue. Appears superficial without
   substantial erythema. Wound care with antibiotic ointment, moist
   barrier w/ sterile gauze. Consider wound c/s if worsening.
   .
   # Bacturia: Patient's UA in the ED showed many bacteria with few WBC
   and negative Leuk esterase. This likely represents asymptomatic
   bacturia.
   - Await urine culture
   - No intervention indicated at this time
   .
   # DM2: Hyperglycemic on admission. Hold glipizide. HgbA1c=7.5% on
   [**2153-9-6**]. Start regular insulin sliding scale.
   .
   # Hypothyroidism: Patient recently prescribed synthroid by Dr. [**Last Name (STitle) 1792**].
   Will continue dose of 25 mcg daily.
   .
   # PPx: SC heparin, PPI
   .
   # Code: Full Code (confirmed with HCP)
   .
   # Dispo: ICU level care
   .
   # Contact: [**Name (NI) 1760**] [**Name (NI) 1764**] (Niece) [**Telephone/Fax (1) 1765**]
   ICU Care
   Nutrition:
   Comments: Cadiac/Diabetic Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-9**] 06:34 PM
   18 Gauge - [**2153-10-9**] 06:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   11:22